US06720320B2
5-(4-hydroxybenzo(b)furan-2-yl)-2-methylthio-1,3,4-oxadiazole
To a solution (20 ml) of 5-(4-(methoxymethyloxy)-benzo(b)furan-2-yl)-2-methylthio-1,3,4-oxadiazole (1.0 g) in THF was added 2N aqueous hydrochloric acid (3.0 ml), and the mixture was refluxed under heating for 7 hr. The solvent was evaporated under reduced pressure to give the title compound (0.62 g) as yellow crystals.

reactant | 5-(4-(methoxymethyloxy)-benzo(b)furan-2-yl)-2-methylthio-1,3,4-oxadiazole | 20 ml, 1.0 g | COCOC1=CC=CC=2OC(=CC21)C2=NN=C(O2)SC | C13H12N2O4S
reactant | hydrochloric acid | 2N, 3.0 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 5-(4-hydroxybenzo(b)furan-2-yl)-2-methylthio-1,3,4-oxadiazole | 0.62 g | OC1=CC=CC=2OC(=CC21)C2=NN=C(O2)SC | C11H8N2O3S
